US05000946
A mixture of ethyl nicotinate (15.1 g, 0.1 mole), ethyl propionate (15.3 g, 0.15 mole) and sodium ethoxide (10.2 g, 0.15 mole) was stirred and heated under nitrogen at 100°C. for five hours. After cooling, the mixture was diluted with water (150 ml) extracted with diethyl ether (50 ml) and the aqueous layer made acidic to pH 1 with concentrated hydrochloric acid (50 ml). The aqueous layer was heated at 90°C. for two hours, cooled, made alkaline with solid potassium carbonate and extracted with diethyl ether (3×75 ml). The dried (magnesium sulphate) organic layer was concentrated and distilled to give ethyl 3-pyridyl ketone (b.pt 97-99°/14mm Hg).

reactant | ethyl nicotinate | 0.1 mole, 15.1 g | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | ethyl propionate | 0.15 mole, 15.3 g | C(CC)(=O)OCC | C5H10O2
reactant | sodium ethoxide | 0.15 mole, 10.2 g | [O-]CC.[Na+]
solvent | water | 150 ml | O | H2O
product | ethyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)CC | C8H9NO
